US08937055B2
B) (2E)-3-[4-(4-methoxyphenyl)pyridin-3-yl]prop-2-enoic acid
A mixture of ethyl (2E)-3-[4-(4-methoxyphenyl)pyridin-3-yl]prop-2-enoate (2.75 g), 2M aqueous sodium hydroxide solution (7.3 mL), tetrahydrofuran (15 mL) and methanol (15 mL) was stirred at room temperature for 5 hr. To the reaction mixture was added water. The solvent was evaporated under reduced pressure, and the pH of the residue was adjusted to 5-6 with 10% aqueous citric acid solution. The precipitated solid was collected by filtration, washed with water and dried. The obtained solid was suspended in hot ethanol, and the suspension was stirred, and slowly cooled to room temperature. The suspension was filtered, and the obtained solid was washed with ethanol, and dried to give the title compound (2.12 g).

reactant | ethyl (2E)-3-[4-(4-methoxyphenyl)pyridin-3-yl]prop-2-enoate | 2.75 g | COC1=CC=C(C=C1)C1=C(C=NC=C1)/C=C/C(=O)OCC | C17H17NO3
reactant | sodium hydroxide | 2M, 7.3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | methanol | 15 mL | CO | CH4O
solvent | water | O | H2O
product | (2E)-3-[4-(4-methoxyphenyl)pyridin-3-yl]prop-2-enoic acid | 2.12 g | COC1=CC=C(C=C1)C1=C(C=NC=C1)/C=C/C(=O)O | C15H13NO3
